US05559129
C. (R)-5-Dibenzylamino-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole
(R)-3 -(N-Benzyloxycarbonylpyrrolidin-2-ylcarbonyl)-5-dibenzylamino-1H-indole was used. Column chromatography using solution with methylene chloride/methanol/ammonium hydroxide [9:1:0.1] afforded the title compound as a pale green foam: 1H NMR (CDCl3) δ7.82 (br s, NH), 7.35-7.19 (m, 10H), 7.20 (d, J=8.6 Hz, 1H), 6.95 (d, J=2.1 Hz, 1H), 6.85 (dd, J=2.3 and 8.7 Hz, 1H), 6.80 (d, J=2.2 Hz, 1H), 4.65 (s, 4H), 3.25-3.02 (m, 2H), 2.52 (dd, J=9.5 and 13.9 Hz, 1H), 2.39-2.15 (m, 2H), 2.30 (s, 3H), 1.85-1.40 (m, 4H); 13C NMR (CDCl3) δ143.2, 139.7, 130.5, 128.5, 128.2, 127.3, 126.8, 122.9, 112.5, 112.2, 111.8, 103.4, 67.0, 57.4, 56.4, 40.6, 31.4, 29.7, 21.9. HRMS: calculated for C28H31N3 409.2520. Found 409.2475.

reactant | (R)-3 -(N-Benzyloxycarbonylpyrrolidin-2-ylcarbonyl)-5-dibenzylamino-1H-indole | C(C1=CC=CC=C1)OC(=O)N1[C@H](CCC1)C(=O)C1=CNC2=CC=C(C=C12)N(CC1=CC=CC=C1)CC1=CC=CC=C1 | C35H33N3O3
reactant | methylene chloride methanol ammonium hydroxide | C(Cl)Cl.CO.[OH-].[NH4+]
product | (R)-5-Dibenzylamino-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole | C(C1=CC=CC=C1)N(C=1C=C2C(=CNC2=CC1)C[C@@H]1N(CCC1)C)CC1=CC=CC=C1 | C28H31N3
